Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Boniva / omeprazole
 
Attending: ___
 
Chief Complaint:
acute onset L sided weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ F w PMHx of prior CVA in ___ and tSAH 
in ___ who presents to ___ ED with acute onset of left sided 
weakness. Ms. ___ states that she was well early this morning 
around 5AM when she got up to take her synthroid. At around 7AM 
when she awoke to use the bathroom, she states that she was 
unable to sit herself up, citing weakness in her left arm. She 
was unable to walk to the bathroom (she does not recall if one 
leg or both legs
were weak), so she activated her life alert. EMS arrived and 
stated that Ms. ___ was lying in her bed, "slumped over" to the 
left. She was unable to ambulate at that time. She was brought 
to ___ ED for stroke assessment with
reported improvement in her symptoms during transport.

Of note, Ms. ___ had a previous ischemic stroke in ___. She is 
unable to remember the exact presentation but believes that 
initially her speech may have been effected. She was left with 
essentially no deficits. 

On ROS, Ms. ___ endorses some recent constipation as well as 
urinary frequency and dysuria. Otherwise, per HPI.
 
Past Medical History:
Ataxia s/p fall complicated by ___ ___
Lacunar stroke - R basal ganglia (in ___
Takosubo's CMY now resolved with EF = 60%
Osteoarthritis 
HYPOTHYROIDISM, UNSPEC 
HEARING LOSS - CONDUCTIVE & SENSORINEURAL 
NEUROPATHY - IDIOPATHIC 
Osteoporosis, senile 
CERVICAL (NECK) PAIN 
Macular degeneration, R eye
Severe stage glaucoma
 
Social History:
___
Family History:
Son had CVA ___

 
Physical Exam:
VS T97.6 HR74 BP166/77 RR18 Sat97RA
GEN - elderly F, lying on stretcher, NAD
HEENT - NC/AT, ?xanthelasma over epicanthal folds L>R
NECK - age appropriate ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

___ Stroke Scale - Total [1]
1a. Level of Consciousness - 0
1b. LOC Questions - 0
1c. LOC Commands - 0
2. Best Gaze - 0
3. Visual Fields - 0
4. Facial Palsy - 1
5a. Motor arm, left - 0
5b. Motor arm, right - 0
6a. Motor leg, left - 0
6b. Motor leg, right - 0
7. Limb Ataxia - 0
8. Sensory - 0
9. Language - 0
10. Dysarthria - 0
11. Extinction and Neglect - 0

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Recalls a coherent history. Structure of 
speech
demonstrates fluency with full sentences, intact repetition, and
intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No dysarthria. No apraxia. No evidence of hemineglect.
No left-right agnosia.

CN - [II] Decrease visual acuity out of R eye secondary to
macular degeneration; R pupil 1.5 and L pupil 1.25 with trace
reactivity. [III, IV, VI] EOMI, no nystagmus. [V] V1-V3 without
deficits to light touch bilaterally. [VII] Face symmetric at 
rest
with slightly decreased activation of L lower face with
volitional smile. [VIII] Bilateral decreased hearing to voice.
[IX, X] Palate elevation symmetric. [XI] SCM/Trapezius strength
___ bilaterally. [XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift.
[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
L  4+     5     4+    4+    5    4+   5      5     5    5
R  5      5     4+    5     5    4+   5      5     5    5

SENSORY - Decreased perception of light touch and temperature in
distal BLE, otherwise intact. Proprioception intact at B/L great
toes.

REFLEXES - 
 [Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        2
R 2      2      2      2        2
Plantar response flexor bilaterally.

COORD - No dysmetria with finger to nose or heel-shin testing.
Good speed and intact cadence with rapid alternating movements.

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. No Romberg.

On discharge:
Mental status: speaking fluently, relates history well, oriented 
to person/place/time
CN: slight L lower facial droop that activates symmetrically, 
decreased hearing
Motor exam: 
[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
  [C5]  [C5]  [C7]  [C6] [T1] [L2]  [L3]  [L5]  [L4] [S1]
L  4+     5     4    5    5    4     5      5-    5    5
R  5      5     4+   5    5    4+    5      5     5    5

 
Pertinent Results:
___ 09:47AM   GLUCOSE-122* NA+-136 K+-4.0 CL--101 TCO2-25
___ 09:44AM   GLUCOSE-126* UREA N-18 SODIUM-136 
POTASSIUM-4.0 CHLORIDE-101
___ 09:44AM   ALT(SGPT)-34 AST(SGOT)-27 ALK PHOS-101 TOT 
BILI-1.0
___ 09:44AM   cTropnT-<0.01
___ 09:44AM   CALCIUM-8.9 PHOSPHATE-3.1 MAGNESIUM-2.1 
CHOLEST-88
___ 09:44AM   TRIGLYCER-79 HDL CHOL-37 CHOL/HDL-2.4 
LDL(CALC)-35
___ 09:44AM   TSH-0.48
___ 10:47AM   %HbA1c-5.7 eAG-117
___ 09:44AM   WBC-9.6 RBC-3.62* HGB-12.0 HCT-34.7 MCV-96 
MCH-33.1* MCHC-34.6 RDW-13.5 RDWSD-47.2*
___ 09:44AM   NEUTS-77.2* LYMPHS-14.8* MONOS-6.4 EOS-0.7* 
BASOS-0.3 IM ___ AbsNeut-7.46* AbsLymp-1.43 AbsMono-0.62 
AbsEos-0.07 AbsBaso-0.03
___ 09:44AM   PLT COUNT-76*
___ 09:44AM   ___ PTT-26.0 ___
___ 09:40AM   CREAT-0.5
___ 09:44AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:30AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 10:30AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.5 LEUK-LG
___ 10:30AM URINE  RBC-4* WBC->182* BACTERIA-MOD YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 10:30AM URINE  MUCOUS-RARE
 
Brief Hospital Course:
Ms. ___ is a ___ woman with prior CVA in ___ and 
traumatic SAH who was admitted ___ with acute onset left 
sided weakness. On exam, she had trace LUE/LLE weakness in UMN 
pattern and a minor L facial droop. NCHCT showed R subcortical 
hypodensity in area of prior infarct. MRI head showed acute 
ischemic infarct in R thalamus. ___ recommends acute 
rehab. 
She was transitioned from Aspirin to Clopidogrel 75mg.
Of note, also had UTI on admission, started on ceftriaxone. WBC 
continued to rise, transitioned to cefepime. Urine culture 
showed sensitivity to ceftriaxone and cefepime, transitioned to 
po cefopodoxime.  

Stroke Workup:
- Risk factors: HgbA1c 5.7, TSH 0.48, LDL 35
- NCHCT: no acute intracranial abnormality
- MRI head: acute lacunar infarct in R thalamus, probably 
subacute lacunar infarct in R occipital lobe
- TTE: No intracardiac source of embolism identified. Preserved 
global and regional biventricular systolic function. Normal 
pulmonary artery systolic pressure.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 200 mg PO QHS 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Atorvastatin 10 mg PO DAILY 
5. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1. Atorvastatin 10 mg PO DAILY 
2. Gabapentin 200 mg PO QHS 
3. Levothyroxine Sodium 88 mcg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Ranitidine 150 mg PO BID 
6. Acetaminophen 325-650 mg PO Q6H:PRN pain 
7. Bisacodyl 10 mg PO DAILY:PRN constipation 
8. Clopidogrel 75 mg PO DAILY 
9. Magnesium Citrate 150 mL PO DAILY:PRN constipation 
10. Vitamin D ___ UNIT PO DAILY 
11. Cefpodoxime Proxetil 400 mg PO Q12H Duration: 3 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: A&O to person, place, time; L UMN pattern weakness, CN 
exam shows mild L lower facial droop

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of acute onset left sided 
weakness resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- prior stroke  
 
We are changing your medications as follows:  
- plavix 75mg po daily  
 
Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___